US08563575B2
The mixture of 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide (500 mg) in acetic anhydride (10 mL) was stirred at 80° C. under a dry atmosphere (CaCl2 tube) for 2 h. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-30% EtOAc in hexane) to give [1-ethyl-2-oxo-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl]methyl acetate (300 mg) as colorless oil.

reactant | 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide | 500 mg | C(C)N1C(N(C2=[N+](C=CC(=C21)C)[O-])C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)=O | C24H35N3O3Si
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | [1-ethyl-2-oxo-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl]methyl acetate | 300 mg | C(C)(=O)OCC1=C2C(=NC=C1)N(C(N2CC)=O)C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C | C26H37N3O4Si
